US04839377
(i) N-[3-(Cyanomethyl)-1H-indol-5-yl]-N',N'-dimethylsulphamide
Dimethyl sulphamoyl chloride (1.2 ml) was added dropwise to a stirred solution 5-amino-1H-indole-3-acetonitrile (1.7 g) in dry dimethyl-formamide (50 ml) containing triethylamine (2.8 ml). After 3 h, the resulting suspension was diluted with water (20 ml) and stirred for 30min. The resulting solution was poured into water (100 ml) and extracted with ethyl acetate (2×100 ml). The combined organic extracts were washed with water (100 ml) and brine (2×100 ml), dried (Na2SO4) and evaporated in vacuo, to give a dark brown oil which was purified by column chromatography (Kieselgel 60, 100 g) eluted with ether/ethyl acetate, (9:1) to give the title compound as white solid (0.75 g) m.p. 147°-150°.

reactant | Dimethyl sulphamoyl chloride | 1.2 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 5-amino-1H-indole-3-acetonitrile | 1.7 g | NC=1C=C2C(=CNC2=CC1)CC#N | C10H9N3
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl-formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | N-[3-(Cyanomethyl)-1H-indol-5-yl]-N',N'-dimethylsulphamide | 0.75 g | C(#N)CC1=CNC2=CC=C(C=C12)NS(=O)(=O)N(C)C | C12H14N4O2S
